US04587236
Analogously to Example 2c, 1.5 g of 11β,21-dihydroxy-17-isovaleryloxy-6α-methyl-1,4-pregnadiene-3,20-dione is reacted in 15 ml of pyridine with 7.5 ml of acetic anhydride, worked up, and purified, thus isolating 980 mg of 21-acetoxy-11β-hydroxy-6α-methyl-17-isovaleryloxy-1,4-pregnadiene-3,20-dione, mp 172° C.

reactant | 11β,21-dihydroxy-17-isovaleryloxy-6α-methyl-1,4-pregnadiene-3,20-dione | 1.5 g | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(CO)=O)([C@]2(C1)C)OC(CC(C)C)=O)C)=O)C | C27H38O6
reactant | acetic anhydride | 7.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 21-acetoxy-11β-hydroxy-6α-methyl-17-isovaleryloxy-1,4-pregnadiene-3,20-dione | 980 mg | C(C)(=O)OCC([C@]1(CC[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C)OC(CC(C)C)=O)=O | C29H40O7
